US04384041
Boc-Leu-OH.H2O (49.9 g, 0.2 M) and HOSu (23.0 g, 0.2 M) were dissolved in THF (300 ml) in a 1 lit. round flask. DCC (41.3 g, 0.2 M) in THF (200 ml) solution was added dropwise at -10° C. for about 10 minutes and the mixture was stirred at room temperature overnight. Precipitated DCU was filtered off and the filtrate was concentrated. The residue was dissolved in ethyl acetate (300 ml), washed with 1 N-HCl, NaCl solution and a small amount of water and dried with anhydrous sodium sulfate. After removal of the drying agent, the solution was concentrated, and n-hexane was added thereto to obtain Boc-Leu-OSu as a colorless powder (m.p. 106°-110° C., 59.11 g, yield: 90%).

reactant | Boc-Leu-OH.H2O | 0.2 M, 49.9 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C.O
reactant | HOSu | 0.2 M, 23.0 g | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 0.2 M, 41.3 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Boc-Leu-OSu | 59.11 g, yield: 90% | N([C@@H](CC(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C15H24N2O6
